* /home/kanish/esim-2.3/library/subcircuitlibrary/cmos_switch_sub/cmos_switch_sub.cir

xsc1 a1 net-_sc1-pad2_ vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc2 a1 net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc5 a2 a1 vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc6 a2 a1 gnd gnd sky130_fd_pr__nfet_01v8 
xsc3 net-_sc3-pad1_ a1 net-_sc3-pad3_ vdd sky130_fd_pr__pfet_01v8_hvt 
xsc8 net-_sc4-pad3_ a2 net-_sc3-pad1_ vdd sky130_fd_pr__pfet_01v8_hvt 
xsc4 net-_sc3-pad1_ a1 net-_sc4-pad3_ gnd sky130_fd_pr__nfet_01v8 
xsc7 net-_sc3-pad3_ a2 net-_sc3-pad1_ gnd sky130_fd_pr__nfet_01v8 
* u1  net-_sc1-pad2_ net-_sc4-pad3_ net-_sc3-pad3_ net-_sc3-pad1_ vdd gnd port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
