* Subcircuit cmos_switch_sub
.subckt cmos_switch_sub net-_sc1-pad2_ net-_sc4-pad3_ net-_sc3-pad3_ net-_sc3-pad1_ vdd gnd 
* /home/kanish/esim-2.3/library/subcircuitlibrary/cmos_switch_sub/cmos_switch_sub.cir
xsc1 a1 net-_sc1-pad2_ vdd vdd sky130_fd_pr__pfet_01v8_hvt
xsc2 a1 net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8
xsc5 a2 a1 vdd vdd sky130_fd_pr__pfet_01v8_hvt
xsc6 a2 a1 gnd gnd sky130_fd_pr__nfet_01v8
xsc3 net-_sc3-pad1_ a1 net-_sc3-pad3_ vdd sky130_fd_pr__pfet_01v8_hvt
xsc8 net-_sc4-pad3_ a2 net-_sc3-pad1_ vdd sky130_fd_pr__pfet_01v8_hvt
xsc4 net-_sc3-pad1_ a1 net-_sc4-pad3_ gnd sky130_fd_pr__nfet_01v8
xsc7 net-_sc3-pad3_ a2 net-_sc3-pad1_ gnd sky130_fd_pr__nfet_01v8
* Control Statements

.ends cmos_switch_sub