* /home/kanish/esim/esim_tut/cmos_switch_sub_test/cmos_switch_sub_test.cir

.include cmos_switch_sub.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
x1 din vin_2 vin_1 vout net-_x1-pad5_ net-_x1-pad6_ cmos_switch_sub
v3 vin_1 gnd  dc 5
v2 vin_2 gnd  dc 2.5
v4 net-_x1-pad5_ net-_x1-pad6_  dc 1.8
v1  din gnd pulse(0 1.8 0.1m 0.1m 0.1m 1m 2m)
* u1  din plot_v1
* u2  vin_2 plot_v1
* u3  vin_1 plot_v1
* u4  vout plot_v1
* s c m o d e
.tran 0.1e-03 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(din)
plot v(vin_2)
plot v(vin_1)
plot v(vout)
.endc
.end
